US04923861
To a solution of oxalyl chloride (1.21 ml, 1.3 equivalents), in 40 ml of dichloromethane at -78° C. under an atmosphere of nitrogen, is added a solution of 2.0 ml (2.6 equivalents) of dimethylsulfoxide in 25 ml of dichloromethane. The reaction is stirred at -78° C. for 15 minutes and 3.45 g of (E)-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propen-1-ol in 40 ml of dichloromethane added dropwise. The reaction is stirred for one hour at -78° C. and then quenched by adding 7.46 ml (5.0 equivalents) of triethylamine and warming to room temperature. A saturated aqueous solution of ammonium chloride, 20 ml, is added and the reaction is washed with water, dried (magnesium sulfate), and evaporated to give 3.14 g of (E)-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propenal as an orange solid; 1H NMR (chloroform-d): δ 9.35 (d, 1H), 7.75 (d, 1H), 7.58-6.98 (m, 8H), 6.32 (dd, 1H), 2.99 (s, 6H) ppm.

reactant | oxalyl chloride | 1.21 ml, 1.3 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 2.0 ml, 2.6 equivalents | CS(=O)C | C2H6OS
reactant | (E)-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propen-1-ol | 3.45 g | CN(C1=NC2=CC=CC=C2C(=C1/C=C/CO)C1=CC=C(C=C1)F)C | C20H19FN2O
reactant | triethylamine | 7.46 ml, 5.0 equivalents | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (E)-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propenal | 3.14 g | CN(C1=NC2=CC=CC=C2C(=C1/C=C/C=O)C1=CC=C(C=C1)F)C | C20H17FN2O
